US06509329B1
Synthesis of N,N′-bis[[2-(3,4,5-Trimethoxyphenylethynyl)-pyridin-4-yl]m ethyl]piperazine
4-Chloromethyl-2-(3,4,5-Trimethoxyphenylethynyl)-pyridine (254 mg) and piperazine (31 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 4-Chloromethyl-2-(3,4,5-Trimethoxyphenylethynyl)-pyridine | 254 mg | ClCC1=CC(=NC=C1)C#CC1=CC(=C(C(=C1)OC)OC)OC | C17H16ClNO3
reactant | piperazine | 31 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[[2-(3,4,5-Trimethoxyphenylethynyl)-pyridin-4-yl]m ethyl]piperazine | COC=1C=C(C=C(C1OC)OC)C#CC1=NC=CC(=C1)CN1CCN(CC1)CC1=CC(=NC=C1)C#CC1=CC(=C(C(=C1)OC)OC)OC | C38H40N4O6
